US07560551B2
In a 150 mL sealed tube, added 2-(2-chloropyridin-3-yl)-3-oxopropanenitrile (2.5 g, 14 mmol), water (2.0 mL, 14 mmol), acetic acid (14 mL, 14 mmol), ethanol (28 mL, 14 mmol), 1,4-dioxane (14 mL), and anhydrous hydrazine (0.40 ml, 14 mmol). The mixture was stirred at 70° C. for 20 minutes. The reaction was cooled to RT and concentrated. The concentrate was extracted into EtOAc, washed 1×NaHCO3, 1×H2O, dried over Mg2SO4, filtered through fritted funnel and concentrated. The crude was purified using reverse phase chromatography. The product was extracted into CH2Cl2) washed 1×NaHCO3, 1×H2O, dried with Na2SO4, filtered through fritted funnel, concentrated to yield 4-(2-chloropyridin-3-yl)-1H-pyrazol-3-amine as tan solid. MS m/z=195 [M+1]+. Calc'd for C8H7ClN4: 194.62.

reactant | 2-(2-chloropyridin-3-yl)-3-oxopropanenitrile | 14 mmol, 2.5 g | ClC1=NC=CC=C1C(C#N)C=O | C8H5ClN2O
reactant | water | 14 mmol, 2.0 mL | O | H2O
reactant | acetic acid | 14 mmol, 14 mL | C(C)(=O)O | C2H4O2
reactant | ethanol | 14 mmol, 28 mL | C(C)O | C2H6O
reactant | hydrazine | 14 mmol, 0.40 ml | NN | H4N2
solvent | 1,4-dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | 4-(2-chloropyridin-3-yl)-1H-pyrazol-3-amine | ClC1=NC=CC=C1C=1C(=NNC1)N | C8H7ClN4
